US06162809
18. 3-Methyl-4-[3-(1,2,3,4-tetrahydroisoquinolin-1-yl)propylthio]-2-[(4-pyridinylthio)methyl]pyridine
According to the procedure indicated in Example 7, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 1,2,3,4-tetrahydroisoquinoline, chromatography on silica gel and subsequent crystallization from isopropanol/diisopropyl ether gives the title compound; m.p. 190-192° C.; yield 36% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | isopropanol diisopropyl ether | C(C)(C)O.C(C)(C)OC(C)C
product | 3-Methyl-4-[3-(1,2,3,4-tetrahydroisoquinolin-1-yl)propylthio]-2-[(4-pyridinylthio)methyl]pyridine | yield 36% | CC=1C(=NC=CC1SCCCC1NCCC2=CC=CC=C12)CSC1=CC=NC=C1 | C24H27N3S2
